US05652271
A solution of sodium hydroxide (19.3 g) in water (20 ml) was added dropwise at 0° C. to a stirred solution of S-[3-(dimethylamino)-2-methylpropyl]isothiourea dihydrochloride (60 g) in water (100 ml). The stirred mixture was heated at 95° C. for 2 hours and allowed to cool. The product was extracted into ether (4×70 ml), the combined extracts dried over sodium sulphate and the solvent removed in vacuo. The residual oil was dissolved in ether and the solution saturated with hydrogen chloride. The resulting solid was collectedby filtration, washed with ether, and dried in vacuo over phosphorus pentoxide for 24 hours to give 3-(dimethylamino)-2-methylpropanethiol hydrochloride as a white solid (30 g).

reactant | sodium hydroxide | 19.3 g | [OH-].[Na+]
reactant | S-[3-(dimethylamino)-2-methylpropyl]isothiourea dihydrochloride | 60 g | Cl.Cl.CN(CC(CSC(N)=N)C)C
solvent | water | 20 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 3-(dimethylamino)-2-methylpropanethiol hydrochloride | 30 g | Cl.CN(CC(CS)C)C | InChI=1S/C6H15NS.ClH/c1-6(5-8)4-7(2)3;/h6,8H,4-5H2,1-3H3;1H
